US09387202B2
N-(4-((2-Aminopyridin-4-yl)oxy)-2,5-difluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide (0.12 g, 0.24 mmol) was dissolved in pyridine (2 mL), treated with isopropenyl chloroformate (0.030 mL, 0.27 mmol), and stirred at RT overnight. The solution was concentrated to obtain crude prop-1-en-2-yl (4-(4-(4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamido)-2,5-difluorophenoxy)pyridin-2-yl)carbamate which was used for the next reaction (assuming 100% yield).

reactant | N-(4-((2-Aminopyridin-4-yl)oxy)-2,5-difluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 0.24 mmol, 0.12 g | NC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C=1C(N(C=CC1OCC)C1=CC=C(C=C1)F)=O)F | C25H19F3N4O4
reactant | isopropenyl chloroformate | 0.27 mmol, 0.030 mL | ClC(=O)OC(=C)C | C4H5ClO2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | prop-1-en-2-yl (4-(4-(4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamido)-2,5-difluorophenoxy)pyridin-2-yl)carbamate | 100% yield | C(C)OC1=C(C(N(C=C1)C1=CC=C(C=C1)F)=O)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)NC(OC(=C)C)=O)C=C1F)F | C29H23F3N4O6
